US05284847
Thieno[2,3-b]pyrazine-2,3(1H,4H)-dione
A mixture of di-t-butyl thiophene-2,3-dicarbamate (1.53 g, 4.87 mmol), diethyl oxalate (15 ml) and acetic acid (15 ml) was refluxed for 48 hours. The precipitate was filtered off, washed with water and dried to yield 0.64 g (78%) of the title compound. M.p. >340° C. 1H-NMR (DMSO-d6, δ): 6.74 (d, 1H), 7.13 (d, 1H), 12.28 (s, 1H).

reactant | di-t-butyl thiophene-2,3-dicarbamate | 4.87 mmol, 1.53 g | S1C(=C(C=C1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C14H22N2O4S
reactant | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Thieno[2,3-b]pyrazine-2,3(1H,4H)-dione | 0.64 g, 78% | N1C2=C(NC(C1=O)=O)SC=C2 | C6H4N2O2S
